US09167821B2
4-(4-{5-[2-(Cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidinium chloride (XII-7)
To a solution of tert-butyl 4-(4-{5-[2-(cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidine-1-carboxylate (3.20 g) in dichloromethane was added dropwise, at 0° C., a 4 molar solution of hydrogen chloride (4.0 eq.) in 1,4-dioxane. The reaction mixture was stirred at 0° C. then gradually warmed to room temperature. After stirring overnight, the solvent and excess hydrogen chloride were removed. This gave 4-(4-{5-[2-(cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidinium chloride (2.50 g).

reactant | tert-butyl 4-(4-{5-[2-(cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidine-1-carboxylate | 3.20 g | C1(CCCCC1)COC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C29H39N3O4S
reactant | hydrogen chloride | 4.0 eq. | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-{5-[2-(Cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidinium chloride | [Cl-].C1(CCCCC1)COC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1 | InChI=1S/C24H31N3O2S.ClH/c1-2-6-17(7-3-1)15-28-22-9-5-4-8-19(22)23-14-20(27-29-23)21-16-30-24(26-21)18-10-12-25-13-11-18;/h4-5,8-9,16-18,23,25H,1-3,6-7,10-15H2;1H
